US06441012B1
b) Preparation of Methyl 4-(3-t-Butoxycarbonylaminophenoxy)butyrate
A mixture of methyl 4-(3-aminophenoxy)butyrate(0.42 g), tetrahydrofuran(5 mL) and di-t-butyl dicarbonate(0.44 g) was stirred at 60-70° C. for 18 h. The mixture was evaporated to dryness and the residue was then purified by flash chromatography eluting with increasingly polar mixtures of ethyl acetate and hexane to give the product (0.6 g), [m/e310,MH+].

reactant | methyl 4-(3-aminophenoxy)butyrate | 0.42 g | NC=1C=C(OCCCC(=O)OC)C=CC1 | C11H15NO3
reactant | di-t-butyl dicarbonate | 0.44 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | Methyl 4-(3-t-Butoxycarbonylaminophenoxy)butyrate | 0.6 g | C(C)(C)(C)OC(=O)NC=1C=C(OCCCC(=O)OC)C=CC1 | C16H23NO5
